* /Users/camerontribe/Documents/Projects/HiFiAudio/Schematics/Power Supply.asc
V1 N001 0 SINE(0 170V 60) Rser=.00001
D1 N002 +VCC D
D2 -VEE N002 D
D3 -VEE N006 D
D4 N006 +VCC D
Lp N001 0 10µ
Ls1 N004 N002 1µ
Ls2 N006 N004 1µ
C1 +VCC 0 10000µ
C2 +VCC 0 10000µ
C3 +VCC 0 1µ
C4 0 -VEE 10000µ
C5 0 -VEE 10000µ
C6 0 -VEE 1µ
C7 N005 -VEE .1µ
C8 +VCC N003 .1µ
R1 +VCC 0 2k
R2 0 -VEE 2k
R3 N003 0 1
R4 0 N005 1
C9 +VCC 0 .1µ
C10 0 -VEE .1µ
R5 0 N004 100
C11 N002 0 .1µ
C12 0 N006 .1µ
R6 +VCC N008 8.2k
Q1 +VCC N008 N007 0 2N3904
D5 0 N008 BZX84C15L
C13 N008 0 .1µ
R7 -VEE N009 8.2k
D6 N009 0 BZX84C15L
C14 N011 0 .1µ
Q2 -VEE N009 N011 0 2N3906
.model D D
.lib /Users/camerontribe/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/camerontribe/Library/Application Support/LTspice/lib/cmp/standard.bjt
K Lp Ls1 Ls2 .99
.tran 100ms
* Power Supply for HiFi Audio Amplifier
* Cameron Tribe & Jaime Rodriguez\nDesign from SNAA057B\nDecember, 2014
.backanno
.end
